US07459451B2
To a stirred solution of ethyl 1-ethyl-4-(5-methyl-3-pyridyl)-6-phenyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate (257 mg) in a mixture of EtOH (2.5 ml) and water (2 ml) was added potassium hydroxide (1.32 g) and the mixture was refluxed for 12 hours. Another potassium hydroxide (439 mg) was added and the mixture was refluxed for 4.5 hours. After cooling, the reaction mixture was diluted with water and extracted with CHCl3. The aqueous layer was acidified to pH3-4 by adding HCl and extracted with CHCl3. The organic layer was washed with water, dried over anhydrous MgSO4 and concentrated in vacuo. The residue was crystallized from EtOAc and n-hexane to give 1-ethyl-4-(5-methyl-3-pyridyl)-6-phenyl-1H-pyrazolo [3,4-b]pyridine-5-carboxylic acid (168 mg) as a light yellow crystal.

reactant | ethyl 1-ethyl-4-(5-methyl-3-pyridyl)-6-phenyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 257 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)C(=O)OCC)C2=CC=CC=C2 | C23H22N4O2
reactant | potassium hydroxide | 1.32 g | [OH-].[K+]
reactant | potassium hydroxide | 439 mg | [OH-].[K+]
solvent | EtOH | 2.5 ml | CCO | C2H6O
solvent | water | 2 ml | O | H2O
product | 1-ethyl-4-(5-methyl-3-pyridyl)-6-phenyl-1H-pyrazolo [3,4-b]pyridine-5-carboxylic acid | 168 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)C(=O)O)C2=CC=CC=C2 | C21H18N4O2
